US05015260
To 200 ml of acetone, were added 19.1 g (77.3 mmol) of 2-methyl-4-hydroxy-5-nitrophenyl mesylate, 31.2 g of sodium carbonate and 19.2 g of dimethyl sulfate. The obtained mixture was heated under reflux for 3 hours. The reaction mixture was cooled and 700 ml of water was poured thereto. Then the mixture was extracted with 700 ml of chloroform, and the extract was washed with water and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, the residue was recrystallized from a solvent mixture (hexane/acetone (2:1, by volume)) to thereby give 15.4 g (59.1 mmol) of 2-methyl-4-methoxy-5-nitrophenyl mesylate. The yield was 77%.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | 2-methyl-4-hydroxy-5-nitrophenyl mesylate | 77.3 mmol, 19.1 g | S(C)(=O)(=O)OC1=C(C=C(C(=C1)[N+](=O)[O-])O)C | C8H9NO6S
reactant | sodium carbonate | 31.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | 19.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 700 ml | O | H2O
product | 2-methyl-4-methoxy-5-nitrophenyl mesylate | 59.1 mmol, 15.4 g, yield was 77% | S(C)(=O)(=O)OC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C9H11NO6S
